US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-N-[(cis)-4-ethoxy-1-(methylsulfonyl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine but substituting methanesulfonyl chloride and making non-critical variations provided the title compound as an oil:

reactant | N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine | C(C)(=O)N1C[C@H]([C@H](C1)OCC)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C22H28Cl2N4O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 5-(2,4-dichlorophenyl)-N-[(cis)-4-ethoxy-1-(methylsulfonyl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)S(=O)(=O)C)CC | C21H28Cl2N4O3S
